US08871934B2
Optically Active Form of [4-(9-hydroxy-2-methyl-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-acetic acid t-butyl ester
To a suspension of t-butyl[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-acetate (24.8 g), (+)-4-chloro-2-methyl-9-trifluoromethyl-9H-fluoren-9-ol (20.0 g), and sodium hydrogen carbonate (11.3 g) in toluene/water (200 ml/60 ml) were added palladium acetate (750 mg) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (2.75 g) at room temperature and the mixture was stirred at 110° C. for 2 hr. To I° the reaction mixture were added water (80 ml) and activated carbon (2.0 g) at room temperature and the mixture was stirred for 1 hr. The mixture was filtered through celite, and the solid was washed with tetrahydrofuran (100 ml). The filtrate was partitioned and the aqueous layer was extracted with ethyl acetate (100 ml). The combined organic layer was successively washed twice with water (100 ml) and once with saturated brine (100 ml), anhydrous sodium sulfate and silica gel (40 g) were added, and the mixture was stirred overnight. The mixture was filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was treated with n-hexane/ethyl acetate (2/1, 120 ml) solution, and the resulting slurry was filtered to give the title compound (17.8 g).

reactant | t-butyl[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-acetate | 24.8 g | C(C)(C)(C)OC(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C15H25BN2O4
reactant | (+)-4-chloro-2-methyl-9-trifluoromethyl-9H-fluoren-9-ol | 20.0 g | ClC1=CC(=CC=2C(C3=CC=CC=C3C12)(O)C(F)(F)F)C | C15H10ClF3O
reactant | sodium hydrogen carbonate | 11.3 g | C(O)([O-])=O.[Na+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 2.75 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | toluene water | 200 ml | C1(=CC=CC=C1)C.O
catalyst | palladium acetate | 750 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 80 ml | O | H2O
product | [4-(9-hydroxy-2-methyl-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-acetic acid t-butyl ester | 17.8 g | C(C)(C)(C)OC(CN1N=CC(=C1)C1=CC(=CC=2C(C3=CC=CC=C3C12)(C(F)(F)F)O)C)=O | C24H23F3N2O3
